US05162316
7-Diethylamino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine
A solution of 7-methylsulphonyl-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (229 mg) and diethylamine (420 mg) in dichloromethane (8 ml) was stirred at ambient temperature for 3 hours. The reaction mixture was eluted from a silica column with diethyl ether:chloroform (4:1) and the combined fractions containing product were evaporated under reduced pressure to yield an oil which on trituration with 40°-60° petroleum ether yielded the title compound, 85.5 mg, m.p. 116°-7° C.

reactant | 7-methylsulphonyl-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 229 mg | CS(=O)(=O)C1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H16N4O4S
reactant | diethylamine | 420 mg | C(C)NCC | C4H11N
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 7-Diethylamino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | C(C)N(C1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC)CC | C19H23N5O2
